US08633173B2
163 b) 3-({2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared from 3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (500.0 mg, 1.421 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (300.0 mg, 1.568 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (78.0 mg, 0.143 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.284 g, 39%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.81 (d, J=6.5 Hz, 1H), 7.46 (d, J=8.9 Hz, 2H), 6.96 (d, J=8.9 Hz, 2H), 6.71 (t, J=7.3 Hz, 1H), 6.59 (s, 1H), 6.35 (d, J=7.7 Hz, 1H), 4.75 (br s, 1H), 3.66-3.05 (m, 10H), 2.63-2.52 (m, 5H), 2.36 (s, 3H), 2.15-2.04 (m, 1H), 1.80-1.65 (m, 1H), 1.46 (s, 9H). MS=507 (MH)+.

reactant | 3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.421 mmol, 500.0 mg | C(C)(C)(C)OC(=O)N1CC(CC1)CNC=1C=2N(C=CC1)N=C(N2)Cl | C16H22ClN5O2
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 1.568 mmol, 300.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.143 mmol, 78.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 3-({2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)CNC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C27H38N8O2
